US08686152B2
To a solution of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (13.19 mmol; 3.21 g) in dry THF (100 mL) under argon at −78° C. was added, dropwise, a 2M solution of lithium diisopropylamide (2M solution in heptanes/THF/ethylbenzene; 15.83 mmol; 7.92 mL). The resulting solution was stirred at −78° C. for 2 hours. 4-Biphenylmethyl bromide (15.83 mmol; 3.91 g) was added and the resulting solution was stirred at −78° C. for 2 hours, then allowed to warm to room temperature overnight. Ethyl acetate (150 ml) was added. The resulting solution was washed with a 1M aqueous hydrochloric acid solution (2×50 mL) and brine (50 mL) and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 50% EtOAc in heptane) to yield 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester. MS (ESI) m/z 432.3 [M+Na]+.

reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 13.19 mmol, 3.21 g | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | lithium diisopropylamide | 15.83 mmol, 2M, 7.92 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Biphenylmethyl bromide | 15.83 mmol, 3.91 g | C1=CC=C(C=C1)C2=CC=C(C=C2)CBr | C13H11Br
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H31NO4
